US08404859B2
A mixture of (S)-2-{[2-(2-1H-Indazol-4-yl-acetylamino)-4-methyl-thiazole-5-carbonyl]-amino}-3-[(thiophene-2-carbonyl)-amino]-propionic acid (50 mg, 0.0975 mmol), 4-morpholineethanol (1.06 mL, 8.751 mmol) and 1-propanephosphonic acid cyclic anhydride, 50 wt. % solution in ethyl acetate (0.4 mL, 0.672 mmol) in THF (2 mL) was heated at 600C for 25 h. The reaction mixture was cooled, diluted with 2/1 ethyl acetate/THF (100 mL), water (10 mL), brine (10 mL) and aqueous 1N KHSO4 (10 mL), mixed and separated the layers. The aqueous layer was extracted with 2/1 ethyl acetate/THF (2×50 mL). The organic layers were combined, washed with aqueous saturated sodium bicarbonate solution (30 mL), brine (30 mL), dried over MgSO4, filtered and concentrated under reduced pressure. The resulting crude compound was purified by flash chromatography (ethyl acetate to 10% methanol/ethyl acetate) followed by an ether trituration to give (S)-2-{[2-(2-1H-Indazol-4-yl-acetylamino)-4-methyl-thiazole-5-carbonyl]-amino}-3-[(thiophene-2-carbonyl)-amino]-propionic acid 2-morpholin-4-yl-ethyl ester (11.1 mg, 18.2%) as a white solid. MS m/e 626.7 (M+H+).

reactant | (S)-2-{[2-(2-1H-Indazol-4-yl-acetylamino)-4-methyl-thiazole-5-carbonyl]-amino}-3-[(thiophene-2-carbonyl)-amino]-propionic acid | 0.0975 mmol, 50 mg | N1N=CC2=C(C=CC=C12)CC(=O)NC=1SC(=C(N1)C)C(=O)N[C@H](C(=O)O)CNC(=O)C=1SC=CC1 | C22H20N6O5S2
reactant | 4-morpholineethanol | 8.751 mmol, 1.06 mL | N1(CCOCC1)CCO | C6H13NO2
reactant | 1-propanephosphonic acid cyclic anhydride | CCCP1(=O)OP(=O)(OP(=O)(O1)CCC)CCC | C9H21O6P3
reactant | ethyl acetate | 0.672 mmol, 0.4 mL | C(C)(=O)OCC | C4H8O2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate THF | 100 mL | C(C)(=O)OCC.C1CCOC1
solvent | water | 10 mL | O | H2O
solvent | brine | 10 mL | [Cl-].[Na+].O
solvent | KHSO4 | 1N, 10 mL | OS(=O)(=O)[O-].[K+]
product | (S)-2-{[2-(2-1H-Indazol-4-yl-acetylamino)-4-methyl-thiazole-5-carbonyl]-amino}-3-[(thiophene-2-carbonyl)-amino]-propionic acid 2-morpholin-4-yl-ethyl ester | 11.1 mg, 18.2% | N1(CCOCC1)CCOC([C@H](CNC(=O)C=1SC=CC1)NC(=O)C1=C(N=C(S1)NC(CC1=C2C=NNC2=CC=C1)=O)C)=O | C28H31N7O6S2
